US04705555
2-Chloro-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-N'-methylbenzenesulfonimidamide
To a solution of 196.8 mg (0.96 mmol) of 2-chloro-N'-methylbenzenesulfonimidamide and 250 mg (0.96 mmol) of phenyl(4-methoxy-6-methyl-1,3,5-triazin-2-yl)carbamate in 5 mL of dry acetonitrile was added 0.15 mL (1.0 mmol) of 1,8-diazabicyclo[5.4.0]-undec-7-ene. After 45 minutes at room temperature, 5 mL of water and 2.5 mL of 5% HCl were added. The aqueous layer was extracted with methylene chloride (3×10 mL). The organic layer was dried (Na2SO4), filtered and the solvent was removed with a rotary evaporator. The residue was triturated with ethyl acetate to give 80 mg of a white solid; m.p. 154° to 160° C.

reactant | 2-chloro-N'-methylbenzenesulfonimidamide | 0.96 mmol, 196.8 mg | ClC1=C(C=CC=C1)S(=O)(N)=NC | C7H9ClN2OS
reactant | phenyl(4-methoxy-6-methyl-1,3,5-triazin-2-yl)carbamate | 0.96 mmol, 250 mg | C1(=CC=CC=C1)OC(NC1=NC(=NC(=N1)OC)C)=O | C12H12N4O3
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 1.0 mmol, 0.15 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | HCl | 2.5 mL | Cl | ClH
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | 2-Chloro-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-N'-methylbenzenesulfonimidamide | 80 mg | ClC1=C(C=CC=C1)S(=O)(NC(=O)NC1=NC(=NC(=N1)OC)C)=NC | C13H15ClN6O3S
